US07332529B2
Synthesis of Methyl 3,5-didodecyloxybenzoate
In a 1 L RBF containing a stir bar and DMF (100 mL); methyl 3,5-dihydroxylbenzoate (20 g, 0.1190 M), potassium carbonate (49.34 g, 0.3570 M), 1-bromododecane (57.2 mL, 0.2380 M) and DMF (100 mL) were added. The reaction mixture was covered with a septum and stirred overnight. By the end of the reaction period (15 hours), the reaction mixture had turned from a pale yellow suspension to a solid dark green suspension. Heat was applied to the RBF until the reaction mixture became fluid. The dark green mixture was then added to 1 L of distilled water and ice, and copious precipitation occurred immediately. The precipitate was isolated by vacuum filtration. The precipitate was recrystallized from hot ethanol (1 L). To increase the product yield, the solution was left to stand at room temperature overnight. The crystals were vacuum filtered and the crystals air-dried yielding 58.5 g or 96.7%. The NMR characterization data for the derivative is as follows. 1H NMR (300 MHz, CDCl3): 0.87 (t, J=6.6, 6H, CH2CH3), 1.15-1.6 (m, 28H, CH2(CH2)6), 1.76 (p, J=8.0, 8H, OCH2CH2), 3.89 (s, 3H, OCH3), 3.95 (t, J=6.6, 4H, OCH2CH2), 6.62 (t, J=2.5, 1H, ArH), 7.15 (d, J=2.5, 2H, ArH).

reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
reactant | methyl 3,5-dihydroxylbenzoate | 0.1190 M, 20 g | OC=1C=C(C(=O)OC)C=C(C1)O | C8H8O4
reactant | potassium carbonate | 0.3570 M, 49.34 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromododecane | 0.2380 M, 57.2 mL | BrCCCCCCCCCCCC | C12H25Br
reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | water | 1 L | O | H2O
product | Methyl 3,5-didodecyloxybenzoate | C(CCCCCCCCCCC)OC=1C=C(C(=O)OC)C=C(C1)OCCCCCCCCCCCC | C32H56O4
